US07358364B2
Step 1: Preparation of 5-[2-(4-Bromophenyl)-2-oxoethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione
A solution of Meldrum's acid (5.0 g, 35 mmol) in anhyd THF (25 mL) was added cautiously to a stirred suspension of sodium hydride (95%, 960 mg, 38 mmol) in anhyd THF (25 mL). The resulting solution was stirred at room temperature for 1 h. A solution of 2,4′-dibromoacetophenone (11.6 g, 42 mmol) in anhyd THF (25 mL) was added dropwise, and the resultant solution was stirred at room temperature for 16-24 h (TLC control). The reaction mixture was poured into water (50 mL), acidified to pH 2-3 with 0.5 N hydrochloric acid and extracted with ethyl acetate (3×50 mL). The combined extract was washed with water, sat'd aq NaCl, dried over anhyd MgSO4, filtered and concentrated in vacuo. Trituration and filtration from MeOH afforded the title compound as a white solid (6.56 g).

reactant | Meldrum's acid | 35 mmol, 5.0 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | sodium hydride | 38 mmol, 960 mg | [H-].[Na+]
reactant | 2,4′-dibromoacetophenone | 42 mmol, 11.6 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-[2-(4-Bromophenyl)-2-oxoethyl]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 6.56 g | BrC1=CC=C(C=C1)C(CC1C(OC(OC1=O)(C)C)=O)=O | C14H13BrO5
